US08491869B2
tert-Butyl (5-ethynylpyridin-2-yl)carbamate (22 mg, 0.1 mmol) and 2-bromo-1-(2-fluoroethyl)-1H-benzo[d]imidazole (24.3 mg, 0.1 mmol) was reacted using general procedure B to afford tert-butyl (5-((1-(2-fluoroethyl)-1H-benzo[d]imidazol-2-yl)ethynyl)pyridin-2-yl)carbamate (12 mg, 31%). 1H NMR (300 MHz, CDCl3): 8.51 (d, J=1.6 Hz, 1H), 8.47 (m, 1H), 7.88 (dd, J=8.8, 2.4 Hz, 7.40-7.34 (m, 3H), 7.31 (d, J=12.8 Hz, 6.22 (s, 1H), 4.80 (t, J=4.8 Hz, 1H), 4.68 (t, J=4.8 Hz, 1H), 4.53 (m, 1H), 4.47 (m, 1H), 1.55 (s, 9H).

reactant | tert-Butyl (5-ethynylpyridin-2-yl)carbamate | 0.1 mmol, 22 mg | C(#C)C=1C=CC(=NC1)NC(OC(C)(C)C)=O | C12H14N2O2
reactant | 2-bromo-1-(2-fluoroethyl)-1H-benzo[d]imidazole | 0.1 mmol, 24.3 mg | BrC1=NC2=C(N1CCF)C=CC=C2 | C9H8BrFN2
product | tert-butyl (5-((1-(2-fluoroethyl)-1H-benzo[d]imidazol-2-yl)ethynyl)pyridin-2-yl)carbamate | 12 mg, 31% | FCCN1C(=NC2=C1C=CC=C2)C#CC=2C=CC(=NC2)NC(OC(C)(C)C)=O | C21H21FN4O2
